US07585878B2
Trifluoroacetic anhydride was added to a mixed solution of 6-amino-2H-1,4-benzoxazin-3(4H)-one and chloroform-tetrahydrofuran to obtain 2,2,2-trifluoro-N-(3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)acetamide.

reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6-amino-2H-1,4-benzoxazin-3(4H)-one | NC=1C=CC2=C(NC(CO2)=O)C1 | C8H8N2O2
solvent | chloroform tetrahydrofuran | C(Cl)(Cl)Cl.O1CCCC1
product | 2,2,2-trifluoro-N-(3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)acetamide | FC(C(=O)NC=1C=CC2=C(NC(CO2)=O)C1)(F)F | C10H7F3N2O3
